US06743776B2
A solution of 4-[4-(3-hydroxyphenyl)piperazin-1-yl]benzoic acid dihydrobromide (2.396 g) in a mixture of 5% NaOH aq. (16.7 ml) and dimethylsulfoxide (33.3 ml) was stirred for 30 minutes at 80° C. Then, 1-bromohexane (0.88 ml) was added thereto and stirred for 8 hours at 80° C. The reaction mixture was added to water and adjusted to pH 2.0 with 1N HCl. The produced precipitate was collected by filtration and dried under reduced pressure to give 4-[4-(3-hexyloxyphenyl)piperazin-1-yl]benzoic acid hydrochloride (3.74 g).

reactant | 4-[4-(3-hydroxyphenyl)piperazin-1-yl]benzoic acid dihydrobromide | 2.396 g | Br.Br.OC=1C=C(C=CC1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1
reactant | 1-bromohexane | 0.88 ml | BrCCCCCC | C6H13Br
reactant | water | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | NaOH | 16.7 ml | [OH-].[Na+]
solvent | dimethylsulfoxide | 33.3 ml | CS(=O)C | C2H6OS
product | 4-[4-(3-hexyloxyphenyl)piperazin-1-yl]benzoic acid hydrochloride | 3.74 g | Cl.C(CCCCC)OC=1C=C(C=CC1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C23H30N2O3.ClH/c1-2-3-4-5-17-28-22-8-6-7-21(18-22)25-15-13-24(14-16-25)20-11-9-19(10-12-20)23(26)27;/h6-12,18H,2-5,13-17H2,1H3,(H,26,27);1H
